### PR TITLE
[Merged by Bors] - feat: preimages of codiscrete sets under analytic function in one variable

### PR DESCRIPTION
**Pull request by kebekus**
Establish corollary of the "principle of isolated zeros": for analytic functions in one variable, the preimage of a set that is codiscrete within the range is codiscrete within the domain. 

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. More precisely, it is used when replacing meromorphic functions by their continuous extension, and functions of the form `log |f*g|` by `log |f| + log |g|`. In both instances, the functions remain unchanged along codiscrete sets, which makes the change irrelevant for integration.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 1]
```diff
@@ -297,5 +307,67 @@ lemma eq_zero_or_eq_zero_of_mul_eq_zero [NoZeroDivisors A]
...
+    intro z ⟨h₁z, h₂z⟩
+    rw [Set.mem_insert_iff] at h₂z
+    tauto
+  tauto
+
+/-- Preimages of codiscrete sets, local filter version: if `f` is analytic at `x` and not locally
+constant, then the push-forward of the punctured neighbourhood filter `𝓝[≠] x` is less than or
+equal to the punctured neighbourhood filter `𝓝[≠] f x`. -/
+theorem AnalyticAt.map_of_puncNhdFilter {x : 𝕜} {f : 𝕜 → E} (hf : AnalyticAt 𝕜 f x)
+    (h₂f : ¬Filter.EventuallyConst f (𝓝 x)) :
```
Comment (madvorak) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:341]: I'd rather see a name like `hfx` or similar.

File: Mathlib/Topology/DiscreteSubset.lean [hunk 2]
```diff
@@ -145,4 +145,13 @@ lemma mem_codiscrete_subtype_iff_mem_codiscreteWithin {S : Set X} {U : Set S} :
     exact tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within _
       continuous_subtype_val.continuousWithinAt <| eventually_mem_nhdsWithin.mono (by simp)
 
+/-- If a set is codiscrete within `U`, then it is codiscrete within any subset of `U`. -/
+lemma Filter.codiscreteWithin.mono {X : Type u_1} [TopologicalSpace X] {U₁ U₂ : Set X}
+    (hU : U₁ ⊆ U₂) :
+    (Filter.codiscreteWithin U₁) ≤ (Filter.codiscreteWithin U₂) := by
```
Comment (madvorak) [inline Mathlib/Topology/DiscreteSubset.lean:151]: Are the parentheses meaningful here?

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:341]: Implemented following your suggestion.

File: Mathlib/Data/Set/Basic.lean [hunk 3]
```diff
@@ -1260,6 +1260,11 @@ theorem diff_inter_diff {s t u : Set α} : s \ t ∩ (s \ u) = s \ (t ∪ u) :=
 theorem diff_compl : s \ tᶜ = s ∩ t :=
   sdiff_compl
 
+theorem compl_diff {α : Type u} {s t : Set α} : (t \ s)ᶜ = s ∪ tᶜ := by
+  ext z
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Data/Set/Basic.lean:1264]: Negative. The tactic is unknown in  `Mathlib/Set/Basic.lean`. If I include `Mathlib.Tactic.TautoSet` I get an incredible number of errors because the file defining the tactic relies on  `Mathlib/Set/Basic.lean` and we end up with circular inclusions.

**Comment by kebekus** [comment]
@madvorak Thanks for taking the time to look at my PR!

**Comment by joneugster** [comment]
You get better adn faster reviews if you add a topic label on the right, Stefan :)

Moreover, here on the queueboard you can ensure your PR satisfies everything required to be on the review queue: https://jcommelin.github.io/queueboard/on_the_queue.html (although, it doesn't yet flag a missing topic label as potential slow-down)

**Review by joneugster — APPROVED** [review]
Overall looks good to me.

I'm not really qualified to review analysis PRs, so take this with a grain of salt.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 4]
```diff
@@ -297,5 +307,67 @@ lemma eq_zero_or_eq_zero_of_mul_eq_zero [NoZeroDivisors A]
...
 end AnalyticOnNhd
+
+section PreimgCodiscrete
+/-!
+### Preimages of codiscrete sets
+-/
+
+/-- Preimages of codiscrete sets, local version: if `f` is analytic at `x` and not locally constant,
+then the preimage of any punctured neighbourhood of `f x` is a punctured neighbourhood of `x`. -/
+theorem AnalyticAt.preimg_of_puncNhd {x : 𝕜} {f : 𝕜 → E} {s : Set E} (hfx : AnalyticAt 𝕜 f x)
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:320]: `preimage` is not usually abbreviated in mathlib.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 5]
```diff
@@ -297,5 +307,68 @@ lemma eq_zero_or_eq_zero_of_mul_eq_zero [NoZeroDivisors A]
...
+  have : Filter.EventuallyConst f (𝓝 x) := by
+    rw [Filter.eventuallyConst_iff_exists_eventuallyEq]
+    use f x
+    rw [Filter.EventuallyEq, ← hfx.frequently_eq_iff_eventually_eq analyticAt_const]
+    apply ((frequently_imp_distrib_right.2 h).and_eventually
+      (eventually_nhdsWithin_of_eventually_nhds this)).mono
+    intro z ⟨h₁z, h₂z⟩
+    rw [Set.mem_insert_iff] at h₂z
+    tauto
+  tauto
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:336]: The `have ... tauto` structure seems a little circuitous. Perhaps `apply h2f.elim`? Also, as Jon already pointed out, the `Filter.xxx` prefixes can be dropped since `Filter` is already opened.

**Review by loefflerd — APPROVED** [review]
Thanks for this! I just have a minor naming remark (I know how tedious these naming arguments are, sorry).

Best wishes, David

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Implemented as suggested.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 6]
```diff
@@ -297,5 +307,68 @@ lemma eq_zero_or_eq_zero_of_mul_eq_zero [NoZeroDivisors A]
...
+
+/-- Preimages of codiscrete sets, local filter version: if `f` is analytic at `x` and not locally
+constant, then the push-forward of the punctured neighbourhood filter `𝓝[≠] x` is less than or
+equal to the punctured neighbourhood filter `𝓝[≠] f x`. -/
+theorem AnalyticAt.map_nbhdsNE {x : 𝕜} {f : 𝕜 → E} (hfx : AnalyticAt 𝕜 f x)
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Implemented as suggested.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 7]
```diff
@@ -297,5 +307,67 @@ lemma eq_zero_or_eq_zero_of_mul_eq_zero [NoZeroDivisors A]
...
+
+/-- Preimages of codiscrete sets, filter version: if `f` is analytic on a neighbourhood of `U` and
+not locally constant, then the push-forward of the filter of sets codiscrete within `U` is less
+than or equal to the filter of sets codiscrete within `f '' U`.
+
+Applications might want to use the theorem `Filter.codiscreteWithin.mono`.
+-/
+theorem AnalyticOnNhd.map_of_codiscreteWithinFilter {U : Set 𝕜} {f : 𝕜 → E}
+    (hfU : AnalyticOnNhd 𝕜 f U) (h₂f : ∀ x ∈ U, ¬EventuallyConst f (𝓝 x)) :
+    Filter.map f (Filter.codiscreteWithin U) ≤ (Filter.codiscreteWithin (f '' U)) :=
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Implemented as suggested.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Implemented with modifications. I could not get apply `h2f.elim` to work, but I found the tactic `absurd h₂f` which probably does what you suggested, replacing the goal by `EventuallyConst f (𝓝 x)`, which can then be shown without an additional `have … tauto`.

The unnecessary `Filter.…` have been removed.

Thanks for pointing that out.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 8]
```diff
@@ -24,6 +25,15 @@ useful in this setup.
 * `AnalyticOnNhd.eqOn_of_preconnected_of_frequently_eq` is the identity theorem for analytic
   functions: if a function `f` is analytic on a connected set `U` and is zero on a set with an
   accumulation point in `U` then `f` is identically `0` on `U`.
+
+## Applications
+
+* Vanishing of products of analytic functions, `eq_zero_or_eq_zero_of_smul_eq_zero`: If `f, g` are
+  analytic on a neighbourhood of the preconnected open set `U`, and `f • g = 0` on `U`, then either
+  `f = 0` on `U` or `g = 0` on `U`.
+* Preimages of codiscrete sets, `AnalyticOnNhd.preimg_codiscrete`: if `f` is analytic on a
```
Comment (joneugster) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:34]:
```suggestion
* Preimages of codiscrete sets, `AnalyticOnNhd.preimage_mem_codiscreteWithin`: if `f` is analytic on a
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 9]
```diff
@@ -145,4 +145,16 @@ lemma mem_codiscrete_subtype_iff_mem_codiscreteWithin {S : Set X} {U : Set S} :
     exact tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within _
       continuous_subtype_val.continuousWithinAt <| eventually_mem_nhdsWithin.mono (by simp)
 
+/-- If a set is codiscrete within `U`, then it is codiscrete within any subset of `U`. -/
+lemma Filter.codiscreteWithin.mono {X : Type u_1} [TopologicalSpace X] {U₁ U₂ : Set X}
```
Comment (joneugster) [inline Mathlib/Topology/DiscreteSubset.lean:149]: I think you should move this up between `mem_codiscreteWithin_accPt` and `Filter.codiscrete` as the remainding lemmas then all talk about `Filter.codiscrete` where as yours doesn't need that definition.

File: Mathlib/Topology/DiscreteSubset.lean [hunk 10]
```diff
@@ -145,4 +145,16 @@ lemma mem_codiscrete_subtype_iff_mem_codiscreteWithin {S : Set X} {U : Set S} :
...
+    (hU : U₁ ⊆ U₂) :
+    Filter.codiscreteWithin U₁ ≤ Filter.codiscreteWithin U₂ := by
```
Comment (joneugster) [inline Mathlib/Topology/DiscreteSubset.lean:151]:
```suggestion
   codiscreteWithin U₁ ≤ codiscreteWithin U₂ := by
```
optionally, if you'd like

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 11]
```diff
@@ -297,5 +307,67 @@ lemma eq_zero_or_eq_zero_of_mul_eq_zero [NoZeroDivisors A]
...
+/-- Preimages of codiscrete sets, local version: if `f` is analytic at `x` and not locally constant,
+then the preimage of any punctured neighbourhood of `f x` is a punctured neighbourhood of `x`. -/
+theorem AnalyticAt.preimage_of_nhdsNE {x : 𝕜} {f : 𝕜 → E} {s : Set E} (hfx : AnalyticAt 𝕜 f x)
+    (h₂f : ¬EventuallyConst f (𝓝 x)) (hs : s ∈ 𝓝[≠] f x) :
+    f ⁻¹' s ∈ 𝓝[≠] x := by
+  have : ∀ᶠ (z : 𝕜) in 𝓝 x, f z ∈ insert (f x) s := by
+    filter_upwards [hfx.continuousAt.preimage_mem_nhds (insert_mem_nhds_iff.2 hs)]
+    tauto
+  by_contra h
+  absurd h₂f
```
Comment (joneugster) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:327]:
```suggestion
  contrapose! h₂f with h
```
optionally, this is also `contrapose`

File: Mathlib/Topology/DiscreteSubset.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Topology/DiscreteSubset.lean]: Implemented.

**Comment by kebekus** [comment]
@joneugster Thanks! I implemented all your suggestions.

File: Mathlib/Topology/DiscreteSubset.lean [hunk 12]
```diff
@@ -111,6 +111,17 @@ lemma mem_codiscreteWithin_accPt {S T : Set X} :
     S ∈ codiscreteWithin T ↔ ∀ x ∈ T, ¬AccPt x (𝓟 (T \ S)) := by
   simp only [mem_codiscreteWithin, disjoint_iff, AccPt, not_neBot]
 
+/-- If a set is codiscrete within `U`, then it is codiscrete within any subset of `U`. -/
+lemma Filter.codiscreteWithin.mono {T₁ T₂ : Set X} (hU : T₁ ⊆ T₂) :
+   codiscreteWithin T₁ ≤ codiscreteWithin T₂ := by
```
Comment (joneugster) [inline Mathlib/Topology/DiscreteSubset.lean:116]:
```suggestion
/-- If a set is codiscrete within `U`, then it is codiscrete within any subset of `U`. -/
lemma Filter.codiscreteWithin.mono {U₁ U : Set X} (hU : U₁ ⊆ U) :
   codiscreteWithin U₁ ≤ codiscreteWithin U := by
```

or anything that aligns the docstring and hyp. names (i.e. `hU`) with the variable name

**Comment by joneugster** [comment]
LGTM, thank you for the PR!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by kebekus** [comment]
@jcommelin Bedankt!
